US03988333
3.96 g of tri-isobutyl aluminum were dissolved in 150 ml of benzene, and a solution of 10.8 g of o-acetoxybenzoic acid dissolved in 200 ml of benzene was added dropwise little by little under ice cooling to the above solution under nitrogen gas current. After completion of the dropwise addition, the temperature of the mixture was returned to room temperature, and the reaction was further continued for 2 hours under agitation. Then, the benzene was distilled off under reduced pressure. Thus, 10.1 g of aluminum tris-(o-acetoxybenzoate) having a melting point above 136° C. were obtained. The resulting aluminum salt had a molecular weight of about 790, and the average degree of polymerization was found to be about 1.4. The infrared absorption spectrum of the salt was as follows:

reactant | tri-isobutyl aluminum | 3.96 g | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | o-acetoxybenzoic acid | 10.8 g | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | aluminum tris-(o-acetoxybenzoate) | 10.1 g | C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.C(C)(=O)OC1=C(C(=O)[O-])C=CC=C1.[Al+3] | InChI=1S/3C9H8O4.Al/c3*1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h3*2-5H,1H3,(H,11,12);/q;;;+3/p-3
